data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7720,"CCC(C)O[Si:1](C)(C)C.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,3482,"C[N:1]1CCC[O+:2]([B-](F)(F)F)[CH:3]1C|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10250,"C=C[N:1](C)C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5216,"CCO[C:1](C)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1522,"CC(=O)CC[C:1](C1=CC=C(S(C)(=O)=O)C=C1)=[O:2].CC1=CC=C(S(=O)(=O)O)C=C1.FC1=CC=C([NH2:3])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8945,"CCOC[CH:1]=[C:2]=[NH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,5270,"C[C:1](C)=[NH2+:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3861,"NC(C1CCCCC1)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5603,"CC(=O)[O-].C[C:1](CCC(=O)C1=CC=CC=C1)([NH2:2])[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7632,"C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)[O-:1])C=C1.C[O-].[H:2][OH:3].[Mg+][Br]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4252,"CC1[C:1](C)(CCC[OH:2])[Br+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2376,"COC1=C2OC3C(=[N+:1](N)[H:2])CCC4(O)C5CC(=C2C34CCN5)C=C1.O.OCCOCCO.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6812,"C[P+:1](C)(Cl)[Mg][Br].[Br][Mg:2][CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,8921,"CC[O+:1](C1(C)CCCCC1C)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3216,"C[CH2:1][Br:2].[CH2:3]=[CH:4][O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2280,"CC1(C)CCCC23C[N+:1](Cl)([H:2])C(CC4=CC=CC=C42)C13.O=C1CCC(=O)[N-:3]1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,901,"CC(C)[C:1]1([H:2])OC=C(C#N)[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,4291,"CCO[C:1]([C:2](C)(C#N)[H:3])=[O:4].[H:5][Na:6]|((6, 5), 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,7039,"CC1=[N:1]CCC2=CC=CC=C21.CCC1=[N+:2]([H:3])CCC2=CC=CC=C21.O=P([O-])(Cl)Cl.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3605,"C1CC[NH:1]CC1.CN(C)C=O.CNC(=O)C(NC(=O)OC[C:2]1([H:3])C2=C(C=CC=C2)C2=C1C=CC=C2)C(C)C|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6898,"COC1=C(O)C2=C(C=C1)CC1C3CC(OC)C(=O)CC23CC[N:1]1CC1CCC1.COC1=C(O)C2=C(C=C1)CC1C3CC(OC)[C:2](=[OH+:3])[CH:4]([H:5])C23CCN1CC1CCC1.CS(=O)(=O)[O-]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,4188,"OCCCCC=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3906,"CCCP1(=O)OP(=O)(CCC)O[P:1](CCC)(=[O:2])O1.CC[NH+](CC)CC.NC1=CC=C(Cl)C=C1I.O=C(NCC(=O)[O-:3])OCC1C2=C(C=CC=C2)C2=C1C=CC=C2|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2678,"C[C:1]1(C)CCC[OH+:2]1.[Br-].[Cl-]|((1, 2), 2)"
train,pmechdb_split_0,0,4719,"CC=C[CH2:1][Cl:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6909,"CC1CCCCC1[B:1]1C2CCCC1CCC2.O[O-:2].[OH-]|(2, 1)"
train,pmechdb_split_0,0,1617,"CC(C)(C)C1=CC=C(C2=CCC(C3=CC=C(C(C)(C)C)C=C3)([O:1][B-](F)(F)F)O2)C=C1.CC[O+:2](CC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5787,"CCOC(=O)C(=C(C)C(C)=O)[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7688,"CCC(CC)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7958,"CO[C:1](C)=[OH+:2].C[SH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4545,"CC1=CC=C(S(=O)(=O)N2CC(C)C3CCC(Br)C(=O)C32)C=C1.CO.C[OH+][K-:1][C:2]#N|((1, 2), 2)"
train,pmechdb_split_0,0,3162,"O[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,4709,"CC[C:1](=[O:2])[CH:3]=[CH2:4].CC[NH+](CC)CC.C[C:5]1=[C:6]([O-:7])CCCC1=O|(7, 6);((6, 5), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7584,"COC(=O)[C:1]12CC=C(C)[C:2]([Br:3])(CCC1)[C:4]2(COP(OC)OC)[O-:5].[Li+]|(5, 4);((4, 1), 2);((2, 3), 3)"
train,pmechdb_split_0,0,3423,"N#CC[CH:1]=[CH:2][O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5877,"CC(C)O.CC1=C(CCO)S[C:1]([C:2](C2=CC=CS2)(C(CC(=O)C2=CC=CS2)C2=CC3=C(C=C2)OCO3)[O-:3])=[N+]1CC1=CC=CC=C1.CC[NH+](CC)CC.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2689,"CC(=O)[NH:1][H:2].N#[C-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7615,"CN(C)[CH:1]([N:2](C)C)[OH+:3]C.[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4600,"C1[CH2:1][O:2]1.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9945,"N#CC1=C[CH:1]=[CH:2]O1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,3604,"CC(=O)[O-].CC[C:1](OC(C)(C)C)([N+:2]1=CC=C(N(C)C)C=C1)[O-:3].CC[NH+](CC)CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9605,"CC(=O)C[CH:1]([H:2])[C:3](C)=[NH+:4]CC1=CC=CO1.NCC1=CC=CO1.O.[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9135,"CO[C:1]1([OH:2])OCCC[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4740,"[CH:1](=[SH+:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8296,"CN[CH:1]=[N+:2](C)C.[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,154,"CC(C(=O)NCC(=O)O)[NH2+:1][C:2](=O)[O-:3].C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7924,"CC(C)[CH:1](C)[Br:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10084,"CCCC1=CC=CC(C)=C1[O+:1](B(Br)Br)[CH3:2].[Br-:3]|(3, 2);((2, 1), 1)"
